US08202885B2
A solution of 2.1 g of crude [2-(2-amino-3-methoxy-phenylcarbamoyl)-ethyl]-methyl-carbamic acid tert.-butyl ester in 10 mL acetic acid was heated at 65° C. for 2 h. The reaction mixture was concentrated and purified by CC with EtOAc to yield 1.5 g of [2-(7-methoxy-1H-benzoimidazol-2-yl)-ethyl]-methyl-carbamic acid tert.-butyl ester as orange foam.

reactant | [2-(2-amino-3-methoxy-phenylcarbamoyl)-ethyl]-methyl-carbamic acid tert.-butyl ester | 2.1 g | C(C)(C)(C)OC(N(C)CCC(NC1=C(C(=CC=C1)OC)N)=O)=O | C16H25N3O4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | [2-(7-methoxy-1H-benzoimidazol-2-yl)-ethyl]-methyl-carbamic acid tert.-butyl ester | 1.5 g | C(C)(C)(C)OC(N(C)CCC1=NC2=C(N1)C(=CC=C2)OC)=O | C16H23N3O3
